US05166155
A mixture of 2,4-dichloro-6-nitroaniline (7.7 g, 37.2 mmol) and SnCl2 (21.6 g, 111.6 mmol) were mechanically stirred under a nitrogen atmosphere. Hydrochloric acid (38.5 ml) was added and the mixture was warmed at 75°-80° C. for 2 h. The mixture was cooled (ice bath) and neutralized (pH=9) with 50% potassium hydroxide solution followed by extraction with ether (3×150 ml). The combined organic extracts was dried over sodium hydroxide pellets and filtered. The solvent was evaporated leaving 6.2 g of intermediary 1,2-diamino-3,5-dichlorobenzene, which was dissolved in 200 ml of methanol and stirred under cooling in an ice bath. Hydrochloric acid (2.90 ml) was added followed by addition of glyoxylic acid monohydrate (3.9 g, 42.4 mmol). The ice bath was removed and stirring was continued for 16 h. The precipitate was filtered off, washed with cold methanol and dried to afford 6.0 g isomeric mixture (6:1, 1H-NMR) of 6,8-dichloroquinoxalin-2(1H)-one and 5,7-dichloroquinoxalin-2(1H)-one, respectively. The isomeric mixture was recrystallized from 2-methoxyethanol (100 ml) to afford 3.4 g of 6,8 -dichloroquinoxalin-2-(1H)-one. M.p. 228°-229° C. 1H-NMR (DMSO-d6):δ7.88 (m, 2H), 8.30 (s, 1H), 12.20 (s, 1H).

reactant | 2,4-dichloro-6-nitroaniline | 37.2 mmol, 7.7 g | ClC1=C(N)C(=CC(=C1)Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | SnCl2 | 111.6 mmol, 21.6 g | Cl[Sn]Cl
reactant | Hydrochloric acid | 38.5 ml | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
product | 1,2-diamino-3,5-dichlorobenzene | 6.2 g | NC1=C(C(=CC(=C1)Cl)Cl)N | C6H6Cl2N2
